US07557114B2
2-Ethoxy-5-methylsulfamoyl-benzoic acid
Prepared in analogy to Example B13(d-e) from 2-Hydroxy-5-methylsulfamoyl-benzoic acid methyl ester and ethanol. MS (m/e): 257.9 ([M−H]−, 100%)

reactant | 2-Hydroxy-5-methylsulfamoyl-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)S(NC)(=O)=O)O)=O | C9H11NO5S
reactant | ethanol | C(C)O | C2H6O
product | 2-Ethoxy-5-methylsulfamoyl-benzoic acid | C(C)OC1=C(C(=O)O)C=C(C=C1)S(NC)(=O)=O | C10H13NO5S
